US07700609B2
3-(2-Methyl-4,5-dihydro-3-thia-1,7,9-triaza-cyclopenta[a]naphthalen-8-ylamino)-benzenesulfonamide
A solution of 3-(8-hydroxy-5,6-dihydro-quinazolin-2-ylamino)benzenesulfonamide (100 mg, 0.314 mmol) in chloroform (1 mL) was treated with a solution of bromine (32 μl, 0.628 mmol) in chloroform (1 mL) and the mixture stirred at room temperature for 2 hours giving an insoluble black residue. The solvent was decanted and the residue treated with thioacetamide (47 mg, 0.6 mmol) in ethanol (3 mL). The mixture was stirred at 80° C. for 3 hours and filtered to give a black solid (75 mg). The solid was dissolved in DMSO and purified by reverse phase preparative HPLC [Waters Delta-Pak C18, 15 uM, 100 A column, gradient 10%-100% B (solvent A: 0.05% TFA in water; solvent B: CH3CN) over 10 minutes at 25 mL/min] to give a yellow solid (6.9 mg) which was further purified by flash chromatography on silica gel eluting with ethyl acetate to afford the title compound (1.9 mg) as a pale yellow solid. MS (ES+) 374, (ES−) 372. δH (CD3OD) 2.78 (3H, s), 3.01-3.07 (2H, m), 3.10-3.16 (2H, m), 7.46 (1H, t), 7.53 (1H, d), 7.65 (2H, s, partially exchanged), 7.83 (1H, d), 8.27 (1H, s), 8.48 (1H, s).

reactant | 3-(8-hydroxy-5,6-dihydro-quinazolin-2-ylamino)benzenesulfonamide | 0.314 mmol, 100 mg | OC1=CCCC=2C=NC(=NC12)NC=1C=C(C=CC1)S(=O)(=O)N | C14H14N4O3S
reactant | bromine | 0.628 mmol, 32 μl | BrBr | Br2
reactant | thioacetamide | 0.6 mmol, 47 mg | C(C)(=S)N | C2H5NS
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-(2-Methyl-4,5-dihydro-3-thia-1,7,9-triaza-cyclopenta[a]naphthalen-8-ylamino)-benzenesulfonamide | 75 mg | CC=1SC2=C(C3=NC(=NC=C3CC2)NC=2C=C(C=CC2)S(=O)(=O)N)N1 | C16H15N5O2S2
